US07141567B2
25. (7R,8R,9R)-3,9-Diphenyl-8-hydroxy-7-(2-methoxyethoxy)-2-methyl-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridine
A suspension of 1.14 g (2.05 mmol) of (7R,8R,9R)-10-acetyl-3,9-diphenyl-7-(2-methoxyethoxy)-2-methyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridine and 2.28 g (16.5 mmol) potassium carbonate in aminoethanol is stirred at 60° C. for 4 h. The reaction is quenched by adding of saturated aqueous ammonium chloride solution. Subsequently the mixture is extracted twice with ethyl acetate. The combined organic layers are washed with brine, dried over sodium sulphate and evaporated in vacuo. The crude product is purified by column chromatography (diethyl ether/petrol ether: 7/3) to give 0.52 g (1.21 mmol/60%) of the title compound as a colourless solid with a melting point of 190–192° C. (diethyl ether).

reactant | (7R,8R,9R)-10-acetyl-3,9-diphenyl-7-(2-methoxyethoxy)-2-methyl-8-pivaloyloxy-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridine | 2.05 mmol, 1.14 g | C(C)(=O)N1[C@@H]([C@H]([C@@H](C=2C=CN3C(C12)=NC(=C3C3=CC=CC=C3)C)OCCOC)OC(C(C)(C)C)=O)C3=CC=CC=C3 | C33H37N3O5
reactant | potassium carbonate | 16.5 mmol, 2.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | aminoethanol | NC(C)O | C2H7NO
product | (7R,8R,9R)-3,9-Diphenyl-8-hydroxy-7-(2-methoxyethoxy)-2-methyl-7.8.9.10-tetrahydroimidazo[1.2-h][1.7]naphthyridine | C1(=CC=CC=C1)C1=C(N=C2N1C=CC=1[C@H]([C@@H]([C@H](NC21)C2=CC=CC=C2)O)OCCOC)C | C26H27N3O3
